US04435405
Di-t-butyl carbonate (15.7 g.) was added to a solution of (+-(S)-2-amino-1-propanol (5.0 g.) in water (13.2 ml.) and t-butanol (6.6 ml.) at ambient temperature, and the mixture was stirred for 16 hr. at ambient temperature, 1,1-Dimethylethylenediamine (2 ml.) was added and the mixture was stirred at ambient temperature for 1 hr. The solution was poured into water (200 ml.) and extracted with diethyl ether (3×100 ml.). The ethereal extract was washed successively with 1 M-hydrochloric acid (50 ml.), saturated sodium carbonate solution (50 ml.) and brine (100 ml.), and then dried (MgSO4). The solvent was evaporated to give (S)-2-t-butoxycarbonylamino-1-propanol, m.p. 42°-3°.

reactant | Di-t-butyl carbonate | 15.7 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | (S)-2-amino-1-propanol | 5.0 g | N[C@H](CO)C | C3H9NO
reactant | 1,1-Dimethylethylenediamine | 2 ml | CC(CN)(N)C | C4H12N2
solvent | water | 13.2 ml | O | H2O
solvent | t-butanol | 6.6 ml | C(C)(C)(C)O | C4H10O
solvent | water | 200 ml | O | H2O
product | (S)-2-t-butoxycarbonylamino-1-propanol | C(C)(C)(C)OC(=O)N[C@H](CO)C | C8H17NO3
